US08445480B2
To a solution of the tert-butyl(piperidin-3-ylmethyl)carbamate (429 mg) in 10 ml dichloromethane was added triethylamine (558 μl) followed by 417 mg of 3-(trifluoromethyl)benzoyl chloride. The mixture was stirred at room temperature for 1 h, and then concentrated in vacuo. The residue was filtered through a plug of silica gel (eluting with ethyl acetate) to provide tert-butyl({1-[3-(trifluoromethyl)benzoyl]piperidin-3-yl}methyl)carbamate (665 mg, 86%). To a solution of this in 10 ml of dichloromethane was added trifluoroacetic acid (10 ml). The mixture was stirred at 60° C. for 1 h, and then concentrated in vacuo. The residue was diluted with 30 ml of ethyl acetate and basified by slow and cautious addition of 30 ml of a saturated aqueous solution of sodium bicarbonate. The aqueous layer was separated and extracted once with 30 ml of ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to provide the title compound (401 mg, 82%). Mass spectrum (ESI) 287.3 (M+1).

reactant | tert-butyl(piperidin-3-ylmethyl)carbamate | 429 mg | C(C)(C)(C)OC(NCC1CNCCC1)=O | C11H22N2O2
reactant | triethylamine | 558 μl | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)benzoyl chloride | 417 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl({1-[3-(trifluoromethyl)benzoyl]piperidin-3-yl}methyl)carbamate | 665 mg, 86% | C(C)(C)(C)OC(NCC1CN(CCC1)C(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C19H25F3N2O3
